US08735584B2
1-Chloro-9-fluoro-5H-benzo[c][1,8]naphthyridin-6-one (410)
The title compound was synthesized according to the procedure described for the preparation of Example 1 using 4-chloro-3-iodopyridin-2-amine (1.20 g, 4.72 mmol) and 5-fluoro-2-methoxycarbonylphenylboronic acid (1.03 g, 5.19 mmol) to provide 410 (250 mg, 21% yield) as a solid. LC-MS (M+H=249, obsd.=249).

reactant | 4-chloro-3-iodopyridin-2-amine | 4.72 mmol, 1.20 g | ClC1=C(C(=NC=C1)N)I | C5H4ClIN2
reactant | 5-fluoro-2-methoxycarbonylphenylboronic acid | 5.19 mmol, 1.03 g | FC=1C=CC(=C(C1)B(O)O)C(=O)OC | C8H8BFO4
product | 1-Chloro-9-fluoro-5H-benzo[c][1,8]naphthyridin-6-one | 250 mg, 21% yield | ClC1=C2C3=C(C(NC2=NC=C1)=O)C=CC(=C3)F | C12H6ClFN2O
